US07960401B2
Potassium hexamethyldisilazane (1.2 ml, 0.5 M solution in toluene) was slowly added to a solution of 4-chloro-3-fluoro-pyridin (0.5 g) and N-Boc-4-Cyano-Piperidine (0.312 g) in 1.5 ml toluene at room temperature, under nitrogen. The mixture was stirred at 80° C. for 2 hrs. After cooling, the reaction mixture was quenched in 1N HCl. The aqueous phase was extracted twice with toluene and the combined organic were dried over anhydrous magnesium sulfate and concentrated in vacuo. The crude product was purified by chromatography [SiO2; ethyl acetate-hexane (1:1)] to give 104 mg (90%) of 4-cyano-3′-fluoro-3,4,5,6-tetrahydro-2H-[4,4′]bipyridinyl-1-carboxylic acid tert-butyl ester; MS (ES+) 306 (M+H+).

reactant | Potassium hexamethyldisilazane | 0.5 M, 1.2 ml | C[Si](N[Si](C)(C)C)(C)C.[K]
reactant | 4-chloro-3-fluoro-pyridin | 0.5 g | ClC1=C(C=NC=C1)F | C5H3ClFN
reactant | N-Boc-4-Cyano-Piperidine | 0.312 g | C(=O)(OC(C)(C)C)N1CCC(CC1)C#N | C11H18N2O2
solvent | toluene | 1.5 ml | C1(=CC=CC=C1)C | C7H8
product | 4-cyano-3′-fluoro-3,4,5,6-tetrahydro-2H-[4,4′]bipyridinyl-1-carboxylic acid tert-butyl ester | 104 mg, 90% | C(C)(C)(C)OC(=O)N1CCC(CC1)(C1=C(C=NC=C1)F)C#N | C16H20FN3O2
